US08980877B2
(E)-3-[1′-(4-Fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (260 mg, 0.56 mmol) in DCM (10 ml) was treated with 4 M HCl in dioxane (1 ml) as described in Example 30, Step C, giving (E)-3-[1′-(4-fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-hydroxy-acrylamide (143 mg, hydrochloride salt) as as a light yellow solid.

reactant | (E)-3-[1′-(4-Fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.56 mmol, 260 mg | FC1=CC=C(CN2CC3(C2)OC2=CC=C(C=C2C(C3)=O)/C=C/C(=O)NOC3OCCCC3)C=C1 | C26H27FN2O5
reactant | HCl | 4 M | Cl | ClH
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (E)-3-[1′-(4-fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-hydroxy-acrylamide | 143 mg | FC1=CC=C(CN2CC3(C2)OC2=CC=C(C=C2C(C3)=O)/C=C/C(=O)NO)C=C1 | C21H19FN2O4
